US06696573B1
3′-Nitroacetophenone (2.00 g) was suspended in methyl t-butyl ether (12.1 ml), and sulfuryl chloride (4.90 g) was dropwise added thereto at 20° C. over 15 minutes. After stirring for 2 hours, precipitated solids were filtered and washed with methyl t-butyl ether. Drying under reduced pressure yielded the desired 2-chloro-3′-nitroacetophenone (1.62 g; 67.0%).

reactant | 3′-Nitroacetophenone | 2.00 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C)=O | C8H7NO3
reactant | sulfuryl chloride | 4.90 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methyl t-butyl ether | 12.1 ml | C(C)(C)(C)OC | C5H12O
product | 2-chloro-3′-nitroacetophenone | 1.62 g, 67.0% | ClCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6ClNO3
